US04736056
In a manner similar to the procedure described in Example B except that a 100 milliliter three-necked Morton flask was used, 10.0 grams (43.0 mmol) of ethyl 3-[(4-cyanophenyl)amino]-3-oxopropanoate, 14.8 grams (108.0 mmol) of anhydrous potassium carbonate, 40 milliliters of anhydrous dimethylformamide and 3.7 milliliters (43.0 mmol) of 1,2-dibromoethane were reacted for a period of 8 days to give 5.19 grams (20.0 mmol) of ethyl 1-(4-cyanophenylaminocarbonyl)cyclopropanecarboxylate as a colorless solid having a melting point of 132.0° C.-133.5° C. The total yield was 47 percent. An analytical sample was prepared by recrystallization from hexane-ethyl acetate having a melting point of 133.0° C.-134.0° C. NMR analysis of the product indicated the following:

reactant | ethyl 3-[(4-cyanophenyl)amino]-3-oxopropanoate | 43.0 mmol, 10.0 grams | C(#N)C1=CC=C(C=C1)NC(CC(=O)OCC)=O | C12H12N2O3
reactant | potassium carbonate | 108.0 mmol, 14.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 43.0 mmol, 3.7 milliliters | BrCCBr | C2H4Br2
solvent | dimethylformamide | 40 milliliters | CN(C=O)C | C3H7NO
product | ethyl 1-(4-cyanophenylaminocarbonyl)cyclopropanecarboxylate | 20.0 mmol, 5.19 grams, yield was 47 percent | C(#N)C1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)OCC | C14H14N2O3
